US08865752B2
Step-4: A degassed mixture of 2-bromo-6-butylbenzo[d]thiazole (142 mg, 0.5 mmol), (4-(methoxycarbonyl)phenyl)boronic acid (135 mg, 0.75 mmol), Pd2(dba)3 (9 mg, 0.01 mmol), Xphos (9.5 mg, 0.02 mmol), potassium phosphate (207 mg, 1.5 mmol) in dioxane (2 mL) under nitrogen atmosphere was stirred at 100° C. for 6 h. The reaction mixture was cooled to RT, evaporated and extracted with dichloromethane, washed with brine, dried over anhydrous sodium sulfate and evaporated. The crude product was purified by preparative TLC to afford methyl 4-(6-butyrylbenzo[d]thiazol-2-yl)benzoate, MS (ESI+) m/z 340.2 [M+1]+

reactant | 2-bromo-6-butylbenzo[d]thiazole | 0.5 mmol, 142 mg | BrC=1SC2=C(N1)C=CC(=C2)CCCC | C11H12BrNS
reactant | (4-(methoxycarbonyl)phenyl)boronic acid | 0.75 mmol, 135 mg | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | Xphos | 0.02 mmol, 9.5 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | potassium phosphate | 1.5 mmol, 207 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.01 mmol, 9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | methyl 4-(6-butyrylbenzo[d]thiazol-2-yl)benzoate | C(CCC)(=O)C1=CC2=C(N=C(S2)C2=CC=C(C(=O)OC)C=C2)C=C1 | C19H17NO3S
